US04065465
Triethylamine (0.50 g., 5.0 mmoles) is added in small portions over 10 minutes to a well stirred mixture of 1.23 g. (5.0 mmoles) of 2-acetoxy-3-phenoxy-propylamine hydrochloride and 1.61 g. (10 mmoles) of trichloroacetamidine in 5 ml. of dimethylformamide. The reaction mixture is heated at 60° C. for 2 hours, diluted with water and extracted with benzene. The benzene extract is washed with water, dried over magnesium sulfate, filtered and concentrated. The residue is dissolved in benzene and treated with an excess of ethanolic hydrogen chloride. Concentration to dryness affords N-(2-acetoxy-3-phenoxypropyl) trichloroacetamidine hydrochloride with a m.p. of 70° to 77° C.

reactant | Triethylamine | 5.0 mmoles, 0.50 g | C(C)N(CC)CC | C6H15N
reactant | 2-acetoxy-3-phenoxy-propylamine hydrochloride | 5.0 mmoles | Cl.C(C)(=O)OC(CN)COC1=CC=CC=C1
reactant | trichloroacetamidine | 10 mmoles | ClC(C(=N)N)(Cl)Cl | C2H3Cl3N2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-(2-acetoxy-3-phenoxypropyl) trichloroacetamidine hydrochloride | Cl.C(C)(=O)OC(CNC(C(Cl)(Cl)Cl)=N)COC1=CC=CC=C1 | InChI=1S/C13H15Cl3N2O3.ClH/c1-9(19)21-11(7-18-12(17)13(14,15)16)8-20-10-5-3-2-4-6-10;/h2-6,11H,7-8H2,1H3,(H2,17,18);1H
